US07538141B2
2-(5-Chloro-2-methoxy-phenyl)-ethylamine
Chlorotrimethylsilane (2 mL, 16 mmol) was added dropwise to lithium borohydride (2M in tetrahydrofuran, 4 mL, 8 mmol). A solution of 2-methoxy-5-chlorophenylacetonitrile (312 mg, 4 mmol) in tetrahydrofuran (2 mL) was then added at 0° C. and the mixture was allowed to stir for 24 hours, whilst warming to room temperature. The mixture was then diluted with methanol (20 mL) and concentrated in vacuo. The residue was taken up in 20% potassium hydroxide solution (20 mL), extracted with dichloromethane (3×20 mL) and the combined organic solution was dried over magnesium sulfate and concentrated in vacuo. The residue was purified by column chromatography using an Isolute® SCX-2 cartridge, eluting with methanol followed by 1M ammonia in methanol, to give an oily residue. The oil was triturated with diethyl ether to afford the title compound, 485 mg.

reactant | Chlorotrimethylsilane | 16 mmol, 2 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | lithium borohydride | 8 mmol, 2M, 4 mL | [BH4-].[Li+]
reactant | 2-methoxy-5-chlorophenylacetonitrile | 4 mmol, 312 mg | COC1=C(C=C(C=C1)Cl)CC#N | C9H8ClNO
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | methanol | 20 mL | CO | CH4O
product | 2-(5-Chloro-2-methoxy-phenyl)-ethylamine | ClC=1C=CC(=C(C1)CCN)OC | C9H12ClNO
